US06521757B1
Isovanillin isopropyl ether:
Isopropyl bromide (19.0 mL, 200 mmol) was added to a suspension of K2CO3 (42.0 g, 302 mmol) and isovanillin (23 g, 151.3 mmol) in DMF (100 gmL) and the stirring slurry heated to 80° C. for 13 h. The reaction mixture was then cooled to room temperature, diluted with ether (200 mL) and washed with H2O (4×200 mL), dried (MgSO4) and concentrated under reduced pressure giving the title compound as a slightly tan oil (29.3 g, 100%) which required no further purification. The spectra of this material are identical with those previously reported (H. Ishii, I.-S. Chen and T. Ishikawa J. Chem. Soc., Perkin Trans. 1, 1987, 671.).

reactant | Isopropyl bromide | 200 mmol, 19.0 mL | C(C)(C)Br | C3H7Br
reactant | K2CO3 | 302 mmol, 42.0 g | C(=O)([O-])[O-].[K+].[K+]
reactant | isovanillin | 151.3 mmol, 23 g | O=CC1=CC(O)=C(OC)C=C1 | C8H8O3
solvent | DMF | CN(C)C=O | C3H7NO
solvent | ether | 200 mL | CCOCC | C4H10O
product | Isovanillin isopropyl ether | C(C)(C)OC=1C=C(C=O)C=CC1OC | C11H14O3
